US08871756B2
A mixture of 4-(benzyloxy)-2-(1-oxido-2,3-dihydro-1,4-benzothiazepin-4 (5H)-yl)quinazoline-6-carboxylic acid (170 mg, 0.37 mmol) and oxetane-3,3-diyldimethanamine (128 mg, 1.11 mmol) was heated at 170° C. for 30 minutes. Then the reaction mixture was cooled to room temperature and purified by preparative HPLC to afford 4-({[3-(Aminomethyl)oxetan-3-yl]methyl}amino)-2-(1-oxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)quinazoline-6-carboxylic acid, MS obsd. (ESI+) [(M+H)+] 468, 1H NMR (400 MHz, DMSO-d6) δ ppm 8.91-8.61 (m, 2 H), 8.09-8.00 (m, 1 H), 7.77-7.74 (m, 1 H), 7.68-7.65 (m, 1 H), 7.51-7.42 (m, 2 H), 7.27-7.13 (m, 1 H), 5.26-5.17 (m, 2 H), 4.89-4.68 (m, 4 H), 452-4.45 (m, 2 H), 4.40-4.31 (m, 2 H), 4.10-3.84 (m, 2 H), 3.20-3.01 (m, 2 H).

reactant | 4-(benzyloxy)-2-(1-oxido-2,3-dihydro-1,4-benzothiazepin-4 (5H)-yl)quinazoline-6-carboxylic acid | 0.37 mmol, 170 mg | C(C1=CC=CC=C1)OC1=NC(=NC2=CC=C(C=C12)C(=O)O)N1CCS(C2=C(C1)C=CC=C2)=O | C25H21N3O4S
reactant | oxetane-3,3-diyldimethanamine | 1.11 mmol, 128 mg | O1CC(C1)(CN)CN | C5H12N2O
product | 4-({[3-(Aminomethyl)oxetan-3-yl]methyl}amino)-2-(1-oxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)quinazoline-6-carboxylic acid | NCC1(COC1)CNC1=NC(=NC2=CC=C(C=C12)C(=O)O)N1CCS(C2=C(C1)C=CC=C2)=O | C23H25N5O4S
